US04110536
3-(3-Diethylaminopropyl)-5-(5-methoxyindol-3-ylmethyl)hydantoin
3-Diethylaminopropyl chloride hydrochloride (3.75 g, 0.024 mole) and a solution of 5-(5-methoxyindol-3-ylmethyl)hydantoin (6.1 g, 0.024 mole) in 100 ml of DMF were added to a solution of sodium (1.1 g) in 200 ml of anhydrous ethanol and the mixture was heated to reflux with stirring for 8 hours, filtered and concentrated in vacuo. The residue was recrystallized from aqueous methanol, yield 1.8 g, mp 136°.

reactant | 3-Diethylaminopropyl chloride hydrochloride | 0.024 mole, 3.75 g | Cl.C(C)N(CCCCl)CC
reactant | 5-(5-methoxyindol-3-ylmethyl)hydantoin | 0.024 mole, 6.1 g | COC=1C=C2C(=CNC2=CC1)CC1C(NC(N1)=O)=O | C13H13N3O3
reactant | sodium | 1.1 g | [Na] | Na
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 3-(3-Diethylaminopropyl)-5-(5-methoxyindol-3-ylmethyl)hydantoin | C(C)N(CCCN1C(NC(C1=O)CC1=CNC2=CC=C(C=C12)OC)=O)CC | C20H28N4O3
